US08293768B2
Synthesis of 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-((5-methylpyrazin-2-yl)methyl)thiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid to react with 2-(aminomethyl)-5-methylpyrazine, the title compound was obtained as a white powder in 43% yield: mp 161-163° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.46 (s, 1H), 8.33 (s, 1H), 6.77 (t, J=4.8 Hz, 1H), 4.64 (d, J=4.8 Hz, 2H), 4.09-4.01 (m, 2H), 3.68-3.58 (m, 2H), 3.14 (d, J=7.2 Hz, 2H), 2.57 (s, 3H), 2.50 (s, 3H), 0.96-0.85 (m, 1H), 0.55-0.49 (m, 2H), 0.23-0.18 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 162.7, 157.7, 155.2, 153.1, 152.5, 148.8, 143.4, 142.7, 117.2, 48.6, 42.3, 42.2, 42.1, 21.2, 17.3, 8.9, 3.5; MS (ES+) m/z 387.2 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C12H15N3O3S
reactant | 2-(aminomethyl)-5-methylpyrazine | NCC1=NC=C(N=C1)C | C6H9N3
product | 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-((5-methylpyrazin-2-yl)methyl)thiazole-5-carboxamide | 43% yield | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC1=NC=C(N=C1)C)=O | C18H22N6O2S
